US08609656B2
In 2 mL of a 4N hydrogen chloride ethyl acetate solution, 13 mg (0.02 mmol) of (9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl]carbamic acid 2-(tert-butoxycarbonylamino)ethyl ester was dissolved and the solution was stirred at room temperature for two hours. The reaction solution was concentrated under reduced pressure, and then the residue was triturated with n-hexane:ethyl acetate=1:1, collected by filtration and vacuum dried to obtain 1.7 mg (16%) of (9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-ylcarbamic acid 2-(methylamino)ethyl ester hydrochloride as a white solid.

reactant | (9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-yl]carbamic acid 2-(tert-butoxycarbonylamino)ethyl ester | 0.02 mmol, 13 mg | C(C)(C)(C)OC(=O)NCCOC(NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)=O | C27H26ClF3N8O5
solvent | hydrogen chloride ethyl acetate | 4N | C(C)OC(C)=O.Cl
product | 9-{4-[3-(4-chloro-3-(trifluoromethyl)phenyl)ureido]phenyl}-9H-purin-6-ylcarbamic acid 2-(methylamino)ethyl ester hydrochloride | Cl.CNCCOC(NC1=C2N=CN(C2=NC=N1)C1=CC=C(C=C1)NC(=O)NC1=CC(=C(C=C1)Cl)C(F)(F)F)=O | InChI=1S/C23H20ClF3N8O3.ClH/c1-28-8-9-38-22(37)34-19-18-20(30-11-29-19)35(12-31-18)15-5-2-13(3-6-15)32-21(36)33-14-4-7-17(24)16(10-14)23(25,26)27;/h2-7,10-12,28H,8-9H2,1H3,(H2,32,33,36)(H,29,30,34,37);1H
